US09233946B2
3-{[(5-Amino-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoic acid
The ethyl 3-{[(5-amino-3-methyl-1-benzothien-2-yl)sulfonyl]-amino}benzoate was hydrolyzed with LiOH following the hydrolysis procedure described in Example 46. The title compound was obtained in 7% yield (over two steps, 2.6 mg). MS (ESI+) calcd for C16H14N2O4S2 362.039498, found 362.040938.

reactant | ethyl 3-{[(5-amino-3-methyl-1-benzothien-2-yl)sulfonyl]-amino}benzoate | NC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2C=C(C(=O)OCC)C=CC2)C)C1 | C18H18N2O4S2
reactant | LiOH | [Li+].[OH-]
product | 3-{[(5-Amino-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoic acid | 7% yield | NC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2C=C(C(=O)O)C=CC2)C)C1 | C16H14N2O4S2
